US07981903B2
A 0° C. solution of N1,N2,N2-trimethyl-N1-[2-methyl-4-(methyloxy)phenyl]glycinamide (4.9 g, 20.74 mmol) in TFA (20 mL) was treated with sodium nitrite (2.003 g, 29.0 mmol). The resulting thick mixture was stirred at rt. After 5 h water (20 mL) and EtOAc (200 mL) were added and the mixture was poured into a saturated NaHCO3 solution (300 mL). The layers were separated. The aqueous layer was treated with a few g of K2CO3 to obtain pH=8, then was extracted with EtOAc (2×125 mL) and CHCl3(2×125 mL). The combined organic layers were washed with a saturated NaCl solution (100 mL), dried (Na2SO4), concentrated onto Celite and purified by silica gel chromatography to obtain N1,N2,N2-trimethyl-N1-[2-methyl-4-(methyloxy)-5-nitrophenyl]glycinamide as an orange solid (1.87 g, 32% Yield). ESIMS (M+H)+=282.52.

reactant | N1,N2,N2-trimethyl-N1-[2-methyl-4-(methyloxy)phenyl]glycinamide | 20.74 mmol, 4.9 g | CN(C(CN(C)C)=O)C1=C(C=C(C=C1)OC)C | C13H20N2O2
reactant | sodium nitrite | 29.0 mmol, 2.003 g | N(=O)[O-].[Na+]
reactant | water | 20 mL | O | H2O
reactant | NaHCO3 | 300 mL | C(=O)(O)[O-].[Na+]
solvent | TFA | 20 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | N1,N2,N2-trimethyl-N1-[2-methyl-4-(methyloxy)-5-nitrophenyl]glycinamide | 1.87 g, 32% Yield | CN(C(CN(C)C)=O)C1=C(C=C(C(=C1)[N+](=O)[O-])OC)C | C13H19N3O4
